US09255101B2
To a solution of 4-phenyl-1H-imidazole (4.75 g, 33 mmoles) in CH2Cl2 (250 mL) is added N-iodosuccinimide (6.75 g, 30 mmoles). After 2 hours at room temperature, CH2Cl2 is removed under reduced pressure. The residual solid is triturated in hot ACN (150 mL), cooled down to room temperature and filtered. The white-off solid is triturated in hot ACN (60 mL), cooled down to room temperature and stirred overnight at room temperature. After a filtration, 5-iodo-4-phenyl-1H-imidazole is obtained.

reactant | 4-phenyl-1H-imidazole | 33 mmoles, 4.75 g | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
reactant | N-iodosuccinimide | 30 mmoles, 6.75 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 5-iodo-4-phenyl-1H-imidazole | IC1=C(N=CN1)C1=CC=CC=C1 | C9H7IN2
